US06160175
B. Preparation of 1-benzylnaphthalene
Sodium hydride pellets (98% NaH; 3.5 g; 5.3 eq) were added to 50 mL of trifluoroacetic acid at ice-water bath temperature, under nitrogen atmosphere. 1-Benzoylnaphthalene (4.0 g; 17.2 mMol), as prepared above, in 25 mL of methylene chloride, was added dropwise. The mixture was allowed to stir overnight while warming to room temperature. The mixture was poured onto ice, the layers were separated, and the aqueous layer was extracted with methylene chloride. The combined organic extractions were washed with saturated sodium bicarbonate, and brine; then dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to medium pressure chromatography on silica gel, eluting with ethyl acetate:hexane/5:95. The desired product was obtained as a white powder (3.0 g; 80% yield).

reactant | Sodium hydride | [H-].[Na+]
reactant | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-Benzoylnaphthalene | 17.2 mMol, 4.0 g | C(C1=CC=CC=C1)(=O)C1=CC=CC2=CC=CC=C12 | C17H12O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-benzylnaphthalene | 80% yield | C(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C17H14
